US06518423B1
(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)acetamide
200 mg of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]-benzothiazin-8-ylmethyl)acetonitrile was dissolved in 5 ml of dimethyl sulfoxide. After adding 200 mg of powdered potassium hydroxide, the resulting mixture was heated to 40 to 60° C. for 10 minutes. Then the reaction mixture was distributed into 1 N hydrochloric acid and ethyl acetate. The organic layer was extracted, washed successively with a saturated aqueous solution of sodium bicarbonate and water and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 35 mg of the title compound as yellow crystals.

reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]-benzothiazin-8-ylmethyl)acetonitrile | 200 mg | COCN1C2=C(SC3=C1C=C(C=C3)CCC#N)N=CC=N2 | C15H14N4OS
reactant | potassium hydroxide | 200 mg | [OH-].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | (10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)acetamide | 35 mg | COCN1C2=C(SC3=C1C=C(C=C3)CCC(=O)N)N=CC=N2 | C15H16N4O2S
